US07556909B2
Synthesis of tris(4-tert-butylphenyl)sulfonium bromide
The target compound was obtained by following the procedure of Synthesis Example 1 aside from using bis(4-tert-butylphenyl)sulfoxide instead of the diphenyl sulfoxide and 4-tert-butylbromobenzene instead of the chlorobenzene in Synthesis Example 1, and increasing the amount of water for extraction.

reactant | bis(4-tert-butylphenyl)sulfoxide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)C1=CC=C(C=C1)C(C)(C)C | C20H26OS
reactant | 4-tert-butylbromobenzene | C(C)(C)(C)C1=CC=C(C=C1)Br | C10H13Br
solvent | water | O | H2O
product | tris(4-tert-butylphenyl)sulfonium bromide | [Br-].C(C)(C)(C)C1=CC=C(C=C1)[S+](C1=CC=C(C=C1)C(C)(C)C)C1=CC=C(C=C1)C(C)(C)C | InChI=1S/C30H39S.BrH/c1-28(2,3)22-10-16-25(17-11-22)31(26-18-12-23(13-19-26)29(4,5)6)27-20-14-24(15-21-27)30(7,8)9;/h10-21H,1-9H3;1H/q+1;/p-1
